2158-09-17 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Transfused  5 units PRBC  4 FFP  3 Platelets (1 on [**9-15**] on [**9-16**])
   Epistaxis for hours, tried afrin, pressure, didn't work. ENT came in
   and did anterior nasal packing with hemostasis. Keep plt>50
   Repleted lytes all day, K, Mg, Phos
   Changed Zosyn to Meropenem
   Fibrinogen trending up, INR coming down (getting FFP)
   Also on Vanc. True trough at night 12 so continued on current dose
   Was on lasix gtt to keep negative but K too low so held. Given 20 IV
   5am [**9-17**] for crackles although ABG c/w metabolic alkalosis, ?
   overdiuresis. FiO2 decreased based on good PaO2 in ABG
   Chest CT done: extensive bilateral diffuse airspace consolidation,
   ground glass opacities,  increased bilateral pleural effusions, right
   greater than left.
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-16**] 10:00 PM
   Ciprofloxacin - [**2158-9-17**] 12:22 AM
   Meropenem - [**2158-9-17**] 01:58 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-16**] 09:26 PM
   Furosemide (Lasix) - [**2158-9-17**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-17**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 70 (69 - 102) bpm
   BP: 119/52(69) {102/49(62) - 152/73(93)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  6,511 mL
                                                                  1,063 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  2,349 mL
                                                                  1,063 mL
   Blood products:
                                                                  4,112 mL
   Total out:
                                                                  4,605 mL
                                                                    185 mL
   Urine:
                                                                  4,305 mL
                                                                    185 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,906 mL
                                                                    878 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 470) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.53/41/112/32/11
   Ve: 8.8 L/min
   PaO2 / FiO2: 224
   Physical Examination
   GENERAL
 Intubated, sedated, responsive to loud voice and noxious
   stimuli, opening eyes.
   HEENT - Pupils equal, EOMI, sclerae icteric, MMM, OP clear, +spider
   angiomata
   NECK - supple, +JVD 9-10cm
   LUNGS
 diffuse rales and rhonchi,  throughout lung fields b/l, though
   less then before intubation. Expiratory wheezes throughout R>L.
   HEART - Regular tachycardia , hyperdynamic, no r/g. 2/6 systolic murmur
   RUSB
   ABDOMEN - +BS, soft, tympantic
   EXTREMITIES - warm with 3+ pitting BLE edema to above knees
   SKIN - spider angiomata, jaundice
   Labs / Radiology
   50 K/uL
   8.9 g/dL
   275 mg/dL
   0.4 mg/dL
   32 mEq/L
   3.1 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   24.0 %
   6.1 K/uL
        [image002.jpg]
   [**9-13**] Joint fluid E. coli
   Blood cx [**9-16**] [**9-17**] NGTD
   CT Chest: Extensive diffuse BL airspace disease/consolidation, GGO,
   Increased BL pleural effusions R>L
                            [**2158-9-16**]  01:14 AM
                            [**2158-9-16**]  01:57 AM
                            [**2158-9-16**]  03:05 AM
                            [**2158-9-16**]  05:15 AM
                            [**2158-9-16**]  09:50 AM
                            [**2158-9-16**]  11:58 AM
                            [**2158-9-16**]  04:58 PM
                            [**2158-9-16**]  10:56 PM
                            [**2158-9-17**]  01:07 AM
                            [**2158-9-17**]  03:46 AM
   WBC
   6.8
   6.1
   Hct
   20.0
   18.5
   17.3
   23.8
   24.0
   Plt
   27
   37
   65
   49
   50
   Cr
   0.8
   0.8
   0.6
   0.4
   TCO2
   33
   32
   31
   35
   Glucose
   135
   202
   138
   275
   Other labs: PT / PTT / INR:24.2/37.2/2.4, CK / CKMB / Troponin-T:128//,
   ALT / AST:19/37, Alk Phos / T Bili:80/6.3, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:100 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:3.3 g/dL, LDH:387
   IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS (MELD 15), recently found to
   have E coli in right hip (with hardware), transferred to the MICU in
   the setting of progressive hypoxia.
   # Hypoxia:
   DDx include volume overload with pulmonary edema, pneumonia, alveolar
   hemorrhage (especially given elevated INR and low platelets).  Also
   consider [**Doctor Last Name 11**] in setting of infxn, TRALI, although she has received
   platelets after CXR showing alveolar infiltrates.  CT chest negative
   for PE ([**9-12**]). Since concerned for pulmonary edema and 2 liters
   positive will DC albumin [**Hospital1 7**] and try to keep negative 1 liter.
   Difficult to characterize if infectious process on CXR and CT with
   diffuse infiltrates. Afebrile but on steroids.
   - Try to keep negative 1 liter. Will give Lasix 80IV x 1and DC albumin
   - F/U final read chest CT
   - evaluate for coagulopathy/DIC as discussed below with [**Hospital1 7**] DIC labs
   - Follow ABGs
   - sputum Cx; cover possible PNA with vanc/meropenem and Levo for double
   pseudomonas coverage. If negative, will consider DC Vanco
   - consider arterial line placement
   - Will keep I
s limited to FFP only if procedures needed (ex. A line)
   # Hip infection:
   Growing resistant E coli; known to have coag negative staph in the
   past.
   - vanc/zosyn for [**Male First Name (un) 1640**]
   - appreciate ID and orthopedics input
   - plan per ortho, no longer planned for OR, but likely needs washout
   for infxn. Will d/w ortho . Need definitive plan for management of
   infxn.
   - follow daily BCx
   - No read or imaging seen for MRI TL spine
   # Coagulopathy:
   [**Month (only) 51**] be secondary to worsening liver failure, but INR has been
   increasing above baseline (2.0->2.9).  With dropping platelets and some
   hemoptysis, have concern for DIC.
   - check fibrinogen, FDP, smear, fibrinogen has remained stable, FDP
   most recently low
   - type and screen
   - Give FFP only as needed for procedures
   #Epistaxis: had anterior packing placed by ENT yesterday with
   hemostasis. No further bleeds. If bleeds again would use Afrin. Will
   need packing x 5 days with anti-staph coverage while packing in place.
   -          Packing x 5 days
   -          Afrin prn bleed
   -          Staph coverage Abx x 5 days
   -          Keep plt >[**Numeric Identifier 649**]
   # Cirrhosis from Hep C:
   MELD score this stay has been 15-20.  On transplant list.
   - continue lactulose and rifaximin
   - trend LFTs
   - appreciate liver recs
   # Anemia:  Transfused 5 units yesterday. No further bleeding. Would
   follow HCT q6-8 and tx <20.
   - follow Q8H Hct for now
   # Adrenal insufficiency:
   Consider possibility that septic physiology may be masked by high dose
   steroids. Currently stress situation given infection, diffuse pulmonary
   process, so do not want to decrease steroids too rapidly. Will decrease
   today to q12 hour and readdress tomorrow. If drops BP or goes for
   surgery or procedure may need to increase to q8 intervals.
   - wean steroids to hydrocortisone 50mg IV Q12H for now
   - monitor blood sugars for hyperglycemia on steroids
   # Hyponatremia:  Na today 135 s/p diuresis. Baseline around 131
   - monitor Na with diuresis and TID lytes
   #. Pain:  Off home pain meds on Fentanyl/Versed
   - continue home Lidoderm patches
   # Asthma:  Currently with wheezing on exam. On steroids as well as home
   meds.
   - continue home albuterol, atrovent, Advair, Singulair
   # Diabetes:
   - continue decreased dose of insulin and sliding scale, follow FSBS
   while on steroids
   # GERD - continue PPI
   # Depression / anxiety:
   - continue home Effexor
   - appreciate psych input
   # Osteopenia - continue home Vitamin D and Calcium carbonate
   # FEN - NPO currently since no access. NGT resulted in bleed. Will
   place OGT today so can receive TF, CS nutrition for TF recs and
   continue aggressive electrolyte repletion and monitoring, especially
   while on lasix
   -- Repleted Mg and K last night with some improvement
   -- Nutrition c/s for TFs,
   -- will need an OG tube placed.
   # Access - PIV  x 5.  Will place PICC request today
   # PPx - pneumoboots, no heparin [**1-7**] thrombocytopenia, home PPI, bowel
   regimen
   # Code - FULL CODE (confirmed in family meeting w/ pt [**9-15**])
   # Dispo - MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-9-16**] 05:27 AM
   20 Gauge - [**2158-9-16**] 08:27 AM
   16 Gauge - [**2158-9-16**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 2391**]
s note and I agree
   with the findings and plan of care.  I would add that from a
   respiratory status we have not gained any ground, with largely
   unchanged vent settings and diffuse infiltrates on CXR.  I/O was
   positive yesterday, in large part due to her blood products needed for
   her large nasal bleed.  She also  almost certainly aspirated a good
   amount of that blood from the upper resp tract.  Today the goal will be
   to diurese her, and to do that we will need to decrease our crystalloid
   and colloid infusions and continue lasix.  We will continue her
   antibiotics which cover her E Coli in her hip and also empirically
   cover for a lower resp infection.  However she will need more
   definitive orthopedic intervention on her hip and we
ll consult with
   ortho on the timing of this.  We will also evaluate her for a PICC so
   that KCl can be given more easily.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   45 min spent on the care of this critically ill patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2158-9-17**] 13:22 ------

2158-09-18 05:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PICC placed yesterday
   Goal of -0.5L yesterday unable to achieve given pt akalemic on ABG
   overnight preventing further diuresis
   2 Episodes of Melena / Maroon Colored Stool  Overnight
   2 units pRBCs, 2 FFP, 1 Platelets given
   Vit K given
   Seen by I.D., Ortho, Hepatology
   Change PPi from Daily to [**Hospital1 7**]
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-17**] 08:39 PM
   Ciprofloxacin - [**2158-9-17**] 11:46 PM
   Meropenem - [**2158-9-18**] 02:05 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2158-9-17**] 10:43 AM
   Pantoprazole (Protonix) - [**2158-9-17**] 08:40 PM
   Other medications:
   Changes to medical and family history: No new information
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt intubated, sedated
   Flowsheet Data as of  [**2158-9-18**] 05:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 74 (71 - 85) bpm
   BP: 109/52(67) {107/41(57) - 145/68(85)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
           Total In:
                                                                  3,505 mL
                                                                  1,538 mL
   PO:
           TF:
   IVF:
                                                                  3,113 mL
                                                                    309 mL
   Blood products:
                                                                    392 mL
                                                                  1,229 mL
   Total out:
                                                                  2,680 mL
                                                                    150 mL
   Urine:
                                                                  2,680 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    825 mL
                                                                  1,388 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 18 cmH2O/mL
   SpO2: 100%
   ABG: 7.55/39/89.[**Numeric Identifier 126**]/32/10
   Ve: 8.5 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: Intubated, Sedated,
   HEENT: PEERL, Sclera mildly icertic, MMM
   Neck: Supple
   Resp: Loud End-Expiratory High Pitched Rhonchorus Sounds Bilaterally
   Anteriorly
   Card: S1S2 2/6 systolic ejection murmur
   Abd: soft, Non-distended, BS+
   Extr: 2+ Lower and Upper extremity edema. Multiple ecchymoses on UEs.
   Labs / Radiology
   72 K/uL
   8.5 g/dL
   160 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.1 mEq/L
   15 mg/dL
   104 mEq/L
   136 mEq/L
   23.3 %
   6.9 K/uL
        [image002.jpg]
                            [**2158-9-16**]  11:58 AM
                            [**2158-9-16**]  04:58 PM
                            [**2158-9-16**]  10:56 PM
                            [**2158-9-17**]  01:07 AM
                            [**2158-9-17**]  03:46 AM
                            [**2158-9-17**]  12:41 PM
                            [**2158-9-17**]  06:17 PM
                            [**2158-9-17**]  10:40 PM
                            [**2158-9-17**]  10:53 PM
                            [**2158-9-17**]  10:54 PM
   WBC
   6.1
   6.4
   5.9
   6.9
   Hct
   17.3
   23.8
   24.0
   23.7
   23.9
   23.0
   23.3
   Plt
   37
   65
   49
   50
   49
   42
   72
   Cr
   0.6
   0.4
   0.4
   0.4
   0.5
   TCO2
   35
   35
   Glucose
   138
   275
   213
   135
   160
   Other labs: PT / PTT / INR:28.4/50.3/2.9, CK / CKMB / Troponin-T:128//,
   ALT / AST:19/37, Alk Phos / T Bili:80/6.3, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:94 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:3.3 g/dL, LDH:387
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS (MELD 15), with ESBL E. Coli of
   R hip, transferred to the MICU in the setting of progressive hypoxia.
   # Acute Hypoxemic Respiratory Failure: 02 saturation stable overnight
   in regards to ABG. PEEP decreased from 8 to 5. Fi02 stable at 50%.
   -          Continue to wean vent
   -          Continue to diuresis when acid-base status stabilized
   # Fluid Status: In regards to volume status, pt was + 825 yesterday,
   1.3L overnight in setting of acute bleed. Diuresis was limited by
   acid-base status. CXR confirms worsening bilateral opacities that may
   be indicative of worsening
   volume overload.  Will address Acid-Base Status as below.
          -      Cont Lasix
   # Melena: 2 Episodes overnight. 2 pRBC given. Hct Stable. AVSS
   -          Serial monitoring of Hcts
   -          Liver Following Closely
   # Acid- Base Status:
   ABG this AM with evidence of metabolic and respiratory alkalosis.
   Respiratory Alkalosis as evident by increased minute ventilation 9-10.
   Etiologies include pain induced from under sedation, tidal volume vent
   settings, or secondary to patients aspiration.
   -          Wil adjust vent settings to decrease Ve.
   -          Control patients sedation
   -          Considering bronch to assess for bronchial aspirations
   secondary to recent epistaxis and high pitched lung sounds on exam
   and/or hemorrhage given prior elevated INR and low platelets.
   In regards to pt
s metabolic alkalosis:
          - Will consider Dimox today after checking PM ABG
   # HAP?: Pt remains afbrile without leukocytosis although worsening CXR.
   Little reserve.
   -          Cont Vanc/Meropenem
   -          d/c
d Cipro per I.D. Recs
   # Hip infection: ESBL E coli
   - Meropenem Per I.D. Recs
   - MRI today
   - Ortho following. Would consider surgery when all of the above issues
   have resolved. Will discuss with ortho today which specific issues need
   to be resolved prior to surgery.
   # Coagulopathy: INR 2.1 today from 2.9 in setting of FFP yesterday. No
   further epistaxis. Platelets stabe. Fibrinogen stable thus far.
   - f/u FDP, smear, fibrinogen has remained stable, FDP most recently low
   - Type and Screen
   - FFP needed for procedures
   # Cirrhosis from Hep C: MELD score this stay has been 15-20.  On
   transplant list.
   - Holding lactulose and rifaximin per Hepatology stating that it is
   currently not necessary
   - trend LFTs
   -  F/U liver recs
   # Adrenal insufficiency: Noting that septic physiology can be masked by
   high dose steroids. Currently stress situation given infection, diffuse
   pulmonary process,. Decreased to  q12 hour. If drops BP or goes for
   surgery or procedure may need to increase to q8 intervals.
   - Cont hydrocortisone 50mg IV Q12H for now
   - monitor blood sugars for hyperglycemia on steroids with of insulin
   and sliding scale
   #. Pain:  Off home pain meds on Fentanyl/Versed
   - Cont home Lidoderm patches
   # Asthma:  Currently with wheezing on exam. On steroids as well as home
   meds.
   - continue home albuterol, atrovent, Advair, Singulair
   # Diabetes:
   - continue decreased dose of insulin and sliding scale, follow FSBS
   while on steroids
   # GERD - continue PPI
   # Depression / Anxiety:
   - continue home Effexor
   - appreciate psych input
   # Osteopenia - continue home Vitamin D and Calcium carbonate
   # FEN - Will place OGT today so can receive TF and will consider
   providing platelets, will C/S nutrition for TF recs. Cont aggressive
   electrolyte repletion.  and monitoring while on lasix
   -- Repleted Mg and K last night with some improvement
   -- Nutrition c/s for TFs,
   -- OG to be  placed.
   # Access
 PICC,  PIV  x 3.
   # PPx
 Hypercoaguabl, no heparin [**1-7**] thrombocytopenia, home PPI, bowel
   regimen
   # Code - FULL CODE (confirmed in family meeting w/ pt [**9-15**])
   # Dispo - MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-16**] 08:27 AM
   16 Gauge - [**2158-9-16**] 01:30 PM
   PICC Line - [**2158-9-17**] 04:54 PM
   22 Gauge - [**2158-9-17**] 11:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 2207**]
s note above and
   agree with the findings and plan of care.
   Regarding the patient
s resp failure her gas exchange and CXR have not
   improved and her lungs have more rhonchi.  Bronch and BAL were done and
   airways have scant rusty mucus but no plugging with clots or mucus.
   BAL of RML was sanguinous and was sent for C&S. We will attempt to
   switch to PSV to allow lower Ve and less alkalosis, but this is always
   difficult in cirrhotics with an increased drive to breathe.
   We will start Diamox in order to attenuate met alkalosis and allow
   diuresis, once her K levels are stabilized.  Hopefully with continued
   control of her coagulopathy and some diuresis, and control of her
   infection there will be no further lung injury or capillary
   leak/bleeding and her CXR and gas exchange will improve
   Appreciate ortho, ID, and hepatology input.  We will hold off on OG
   tube for now, as per Dr [**Last Name (STitle) 1174**], but soon we will have to address
   nutrition, enterally or per PICC.
   Despite her melena (which I believe is not from GI bleed but from
   swallowed blood from her ENT bleed 36 hrs ago), and despite no
   lactulose, she is awake enough to nod her head to my questions today!
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   45 min spent on the care of this critically ill patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2158-9-18**] 14:55 ------

2158-09-19 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Attempted to diurese, however continued to be alkalotic and did not
   want to exacerbate compensatory alkalosis; decreased rate on vent; pt
   overbreathed above vent rate; episodex1 of increased work of breathing
   at 1800: ABG-7.43/50/97/34 Lactate 2.9
 vent settings changed from PSV
   to AC. Sedation increased.
   -Ortho rec: infected R hemiarthroplasty; to OR on [**9-19**] for explant and
   placement of antibiotic spacer, consented; T&C
ed 4units pRBC and
   4units platelets (per Anesthesia)
   -Hep rec: continue to treat hyperkalemia with lasix (Although inc. K
   false)
   -Vanco trough low; increased to q12 instead of q24
   -Bronchoscopy ([**9-18**]): tan colored thin mucus in ETT; large, rusty
   colored airways; no active bleeding; no clots in airways; BAL of RML
   had 60cc of serosang fluid; sent for C&S, still pending
   -MRI of spine/hip: read pending
   -Transfused 2 units PRBC [**9-18**], 1 FFP, 1 plt [**9-19**]
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-9-17**] 11:46 PM
   Vancomycin - [**2158-9-18**] 11:03 PM
   Meropenem - [**2158-9-19**] 02:15 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-18**] 08:03 PM
   Furosemide (Lasix) - [**2158-9-19**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-19**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96
   HR: 74 (67 - 115) bpm
   BP: 148/69(88) {116/48(65) - 156/70(88)} mmHg
   RR: 22 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
           Total In:
                                                                  2,807 mL
                                                                    896 mL
   PO:
           TF:
   IVF:
                                                                  1,578 mL
                                                                    396 mL
   Blood products:
                                                                  1,229 mL
                                                                    500 mL
   Total out:
                                                                  1,780 mL
                                                                    920 mL
   Urine:
                                                                  1,780 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,027 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 356 (195 - 400) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/50/96.[**Numeric Identifier 181**]/34/7
   Ve: 8.2 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General: Intubated, Sedated, awakens to noxious stimuli only, no
   awakening to voice, not following commands
   HEENT: PEERL, Sclera icteric, MMM
   Neck: Supple. JVP 7-8cm
   Resp: Loud High Pitched Rhonchorus Sounds Bilaterally Anteriorly with
   exp wheezes throughout
   Card: S1S2 2/6 systolic ejection murmur
   Abd: Soft, Non-distended, no obvious tenderness, BS+
   Extr: 2+ Lower and Upper extremity edema; improved LEedema c/w prior .
   Multiple ecchymoses on UEs.
   Labs / Radiology
   37 K/uL
   10.4 g/dL
   165 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.0 mEq/L
   19 mg/dL
   101 mEq/L
   142 mEq/L
   29.2 %
   6.0 K/uL
        [image002.jpg]
   5am lytes: Na 140 K 9.9->3.1, Cl 106, HCO3 32, BUN 21, Cr 0.5, BS 171
   T bili 8.1 from 6.1, LDH 393 from 441
   PT 25.3, PTT 41.5, INR 2.5
   Micro: fecal cx pending. C diff neg x 1, [**9-18**] BAL gram stain 3+polys,
   no org, prelim cx pending
   [**9-16**], [**9-17**], [**9-18**] blood cx NGTD
   Imaging: MR T/L spine read pending
   CXR: Worsening of consolidative tendency of bilateral pre-existing
   opacities, particularly evident at left and right lung apex. The more
   basal opacities relatively unchanged. No evidence larger pleural
   effusions.
                            [**2158-9-17**]  10:53 PM
                            [**2158-9-17**]  10:54 PM
                            [**2158-9-18**]  03:34 AM
                            [**2158-9-18**]  06:58 AM
                            [**2158-9-18**]  12:15 PM
                            [**2158-9-18**]  01:45 PM
                            [**2158-9-18**]  03:45 PM
                            [**2158-9-18**]  06:25 PM
                            [**2158-9-18**]  10:32 PM
                            [**2158-9-19**]  05:08 AM
   WBC
   6.9
   7.9
   8.1
   6.3
   6.0
   Hct
   23.3
   28.1
   28.9
   26.9
   29.2
   Plt
   72
   58
   56
   49
   37
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   35
   35
   35
   35
   34
   Glucose
   160
   168
   108
   165
   Other labs: PT / PTT / INR:25.3/41.5/2.5, CK / CKMB / Troponin-T:128//,
   ALT / AST:20/37, Alk Phos / T Bili:87/6.1, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.3 g/dL, LDH:441
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS [**2153**] (MELD 15), with ESBL E.
   Coli of R hip, transferred to the MICU in the setting of progressive
   hypoxia.
   # Acute Hypoxemic Respiratory Failure: Etiology unclear and likely
   mixed picture. Differential includes infection, ARDS/[**Doctor Last Name 11**] given diffuse
   BL infiltrates, pulmonary edema. 02 saturation stable overnight.
   Minimal vent settings with pressure support 5, PEEP 5. Fi02 stable at
   50%. However, upon later exam this am pt with respiratory distress,
   dysynchronous from vent
   -          Continue current vent settings
   -          Increase sedation to improve comfort, decrease dysynchrony
   -          Obtain arterial line to follow ABGs
   -          Continue diuresis with lasix gtt to try to keep negative 1
   liter since has been positive 1 liter per day. Diuresis now enabled by
   improved alkalosis, on diamox
   -          F/U BAL results to determine if pneumonia present
   # Fluid/Acid base Status: In regards to volume status, pt has been
   roughly 1 liter positive each day, 1 liter pos yesterday despite lasix
   40 IV x2. Diuresis was limited by acid-base status. Peripheral edema
   improved but CXR continues to look volume overloaded vs. ARDS/[**Doctor Last Name 11**]. CXR
   confirms worsening bilateral opacities that may be indicative of
   worsening volume overload.
   -          Will start lasix gtt with goal negative 1 liter
   -          Continue Diamox for alkalosis to enable diuresis
   -
   # Melena: Likely [**1-7**] epistaxis. GI consulted and did not think bleed
   was necessarily GI given prior h/o epistaxis and stable HCT. She was
   transfused 2 units PRBC early am on [**9-18**] with Hct Stable x 24 hours.
   -          Serial monitoring of Hcts
   -          Liver Following
   -          Ruling out C diff, will send repeat sample
   # HAP?: Pt remains afbrile without leukocytosis although worsening CXR.
   Little reserve to treat empirically for infection although no focal
   consolidation.
   -          Cont Vanc/Meropenem
   -          d/c
d Cipro per I.D. Recs
   # Hip infection/pain: ESBL E coli
   - Meropenem Per I.D. Recs
   - F/U final MRI report
   - Ortho following. Planned for OR today in afternoon. Typed and
   crossed, will give FFP.
   - continue lidoderm patch, holding home oxycontin, oxycodone
   # Coagulopathy: INR 2.5 today. No further epistaxis. Platelets stable.
   Fibrinogen stable thus far. Receiving FFP for planned procedure, OR
   today.
   - f/u FDP, smear, fibrinogen has remained stable, FDP most recently low
   - Type and Screen
   - FFP needed for procedures
   # Cirrhosis from Hep C: MELD score this stay has been 15-20.  On
   transplant list, liver following.
   - Holding lactulose and rifaximin per Hepatology stating that it is
   currently not necessary
   - trend LFTs
   - F/U liver recs
   # Adrenal insufficiency: She has h/o adrenal insufficiency previously
   seen by Endocrinology [**4-13**] with undetectable cortisol levels, low ACTH.
   Since this is currently stressful situation given infection, diffuse
   pulmonary process, and planned OR will change hydrocortisone form 50
   q12 to q8 hours for 24 hours peri-procedure.
   - Change hydrocortisone 50mg IV from Q12H to q8 hour for now
   - monitor blood sugars for hyperglycemia on steroids with of insulin
   and sliding scale
   # Asthma:  Currently with wheezing on exam. On steroids as well as home
   meds.
   -          continue home albuterol, atrovent
   -           will increase albuterol to q4 standing, q2 prn, increase
   atrovent to q4 standing to decrease resp distress, bronchospasm
   # Diabetes:
   - continue insulin and sliding scale, follow FSBS while on steroids
   # GERD - continue PPI
   # Depression / Anxiety:
   - holding home PO meds
   - appreciate psych input
   # Osteopenia - continue home Vitamin D and Calcium carbonate
   # FEN - Will place OGT today so can receive TF and will consider
   providing platelets, will C/S nutrition for TF recs. Cont aggressive
   electrolyte repletion  and monitoring while on lasix
   -- Replete Mg and K prn
   -- Nutrition c/s for TFs,
   -- OG to be  placed.
   # Access
 PICC,  PIV  x 3.
   # PPx
 Hypercoaguabl, no heparin [**1-7**] thrombocytopenia, home PPI, bowel
   regimen
   # Code - FULL CODE (confirmed in family meeting w/ pt [**9-15**])
   # Dispo - MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-16**] 08:27 AM
   16 Gauge - [**2158-9-16**] 01:30 PM
   PICC Line - [**2158-9-17**] 04:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-09-19 11:23:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains intubated mechanically ventilated.
   24 Hour Events:
 BRONCHOSCOPY - At [**2158-9-18**] 01:30 PM
 MAGNETIC RESONANCE IMAGING - At [**2158-9-18**] 09:30 PM
   thorastic, hips and thigh.
   Appears dysynchronous breathing on ventilator, active exhalation.
   Opens eyes to voice command.
   History obtained from Medical records
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-9-17**] 11:46 PM
   Meropenem - [**2158-9-19**] 08:07 AM
   Vancomycin - [**2158-9-19**] 08:07 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-18**] 08:03 PM
   Furosemide (Lasix) - [**2158-9-19**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-9-19**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 73 (64 - 115) bpm
   BP: 159/81(100) {116/50(66) - 162/89(105)} mmHg
   RR: 27 (21 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
           Total In:
                                                                  2,807 mL
                                                                  1,851 mL
   PO:
           TF:
   IVF:
                                                                  1,578 mL
                                                                  1,152 mL
   Blood products:
                                                                  1,229 mL
                                                                    699 mL
   Total out:
                                                                  1,780 mL
                                                                  1,200 mL
   Urine:
                                                                  1,780 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,027 mL
                                                                    651 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 356 (356 - 389) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 161
   RSBI Deferred: Neuromusc Block
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/50/97/32/7
   Ve: 9.4 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Nasal packing
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : diffuse, expiratory, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ up to hip, Left: 1+, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   52 K/uL
   171 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.1 mEq/L
   21 mg/dL
   106 mEq/L
   140 mEq/L
   29.2 %
   6.0 K/uL
        [image002.jpg]
                            [**2158-9-17**]  10:54 PM
                            [**2158-9-18**]  03:34 AM
                            [**2158-9-18**]  06:58 AM
                            [**2158-9-18**]  12:15 PM
                            [**2158-9-18**]  01:45 PM
                            [**2158-9-18**]  03:45 PM
                            [**2158-9-18**]  06:25 PM
                            [**2158-9-18**]  10:32 PM
                            [**2158-9-19**]  05:08 AM
                            [**2158-9-19**]  08:17 AM
   WBC
   7.9
   8.1
   6.3
   6.0
   Hct
   28.1
   28.9
   26.9
   29.2
   Plt
   58
   56
   49
   37
   52
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   35
   35
   35
   35
   34
   Glucose
   168
   108
   165
   171
   Other labs: PT / PTT / INR:25.3/41.5/2.5, CK / CKMB / Troponin-T:128//,
   ALT / AST:20/37, Alk Phos / T Bili:87/8.1, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.3 g/dL, LDH:393
   IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory failure, progressive.
   RESPIRATORY FAILURE -- radiographic progression over past 24 hrs.
   Underlying etiology uncertain.  BAL results pending from yesterday.
   Concerns include ARDS, alveolar hemorrhage, pneumonia.  Also active
   bronchospasm --> need to optimize medications, including iv steroids.
   Need to optimize sedation.
   ASTHMA -- poorly controlled currently.  Need to optimize medications.
   ANEMIA -- hemorrhagic anaemia.  Monitor serial Hct.
   MELENA -- attributed to epistaxis.  Monitor s/p nasal packing.  Monitor
   stools.
   INR-- elevated, attributed to cirrhosis.  Currently stable since
   admission.  Monitor.
   NIDDM -- continue to monitor blood glucose, mantain <150.
   RIGHT HIP Sepsis -- Awaiting orthopedic service for further
   intervention for ESBL E.coli infection.  Continue antimicoribials.
   EPISTAXIS -- stable.  s/p nasal packing.
   CIRRHOSIS -- transplant candidate, but no plans for transplant
   currently.  Hepatology to continue to follow.
   FLUIDS -- plan net diuresis for 1000 mg/24 hrs.
   NUTRITIONAL support -- hope to initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-16**] 08:27 AM
   16 Gauge - [**2158-9-16**] 01:30 PM
   PICC Line - [**2158-9-17**] 04:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2158-09-20 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2158-9-19**] 03:15 PM
 Went to OR - At [**2158-9-19**] 06:20 PM, had hardware removed, cement
   antibiotic spacer put in with VAC; no special precautions per ortho.
RIJ TLC placed - START [**2158-9-20**] 01:06 AM
   Started on insulin gtt for improved glycemic control
   Continued on lasix gtt but was difficutlt o keep up with I/O from OR
   (approx. 3L pos.), CXR looked wet with crackles, titrated up to [**1-25**]
   Attempted OGT placement but had blood then suctioned from oropharynx,
   deferred placement, will reddress
   MRI Wet read: No evidence of discitis, osteomyelitis, epidural
   collection, or paravertebral
   collection. Compression deformities of T11, T12, and L1 vertebral
   bodies are
   new since [**2157-9-30**], but not acute. Mild lumbar spondylosis. Bilateral
   pleural effusions and pulmonary opacities. Free fluid in the pelvis.
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-9-17**] 11:46 PM
   Vancomycin - [**2158-9-19**] 10:00 PM
   Meropenem - [**2158-9-20**] 04:05 AM
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Insulin - Regular - 4 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-20**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 91 (62 - 106) bpm
   BP: 143/78(100) {107/52(0) - 143/78(100)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  6,514 mL
                                                                    552 mL
   PO:
   TF:
   IVF:
                                                                  2,192 mL
                                                                    552 mL
   Blood products:
                                                                  4,322 mL
   Total out:
                                                                  2,990 mL
                                                                  1,020 mL
   Urine:
                                                                  2,240 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                  3,524 mL
                                                                   -468 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 161
   RSBI Deferred: Neuromusc Block
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.39/55/104/33/7
   Ve: 7.7 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General: Intubated, Sedated, awakens to noxious stimuli only, no
   awakening to voice, not following commands
   HEENT: PEERL, Sclera icteric, MMM
   Neck: Supple. JVP 7-8cm
   Resp: Loud High Pitched Rhonchorus Sounds Bilaterally Anteriorly with
   exp wheezes throughout
   Card: S1S2 2/6 systolic ejection murmur
   Abd: Soft, Non-distended, no obvious tenderness, BS+
   Extr: 2+ Lower and Upper extremity edema; improved LEedema c/w prior .
   Multiple ecchymoses on UEs.
   Labs / Radiology
   117 K/uL
   7.9 g/dL
   179 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.3 mEq/L
   25 mg/dL
   106 mEq/L
   147 mEq/L
   22.3 %
   11.5 K/uL
        [image002.jpg]
                            [**2158-9-18**]  06:25 PM
                            [**2158-9-18**]  10:32 PM
                            [**2158-9-19**]  05:08 AM
                            [**2158-9-19**]  08:17 AM
                            [**2158-9-19**]  11:40 AM
                            [**2158-9-19**]  05:07 PM
                            [**2158-9-19**]  09:16 PM
                            [**2158-9-19**]  09:17 PM
                            [**2158-9-20**]  01:53 AM
                            [**2158-9-20**]  02:21 AM
   WBC
   6.3
   6.0
   8.0
   9.1
   11.5
   Hct
   26.9
   29.2
   32
   28.8
   22.4
   22.3
   Plt
   49
   37
   52
   46
   99
   117
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   34
   35
   33
   35
   Glucose
   165
   171
   156
   199
   177
   199
   179
   Other labs: PT / PTT / INR:20.1/36.0/1.9, CK / CKMB / Troponin-T:128//,
   ALT / AST:20/37, Alk Phos / T Bili:87/8.0, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:3.3 g/dL, LDH:350
   IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS [**2153**] (MELD 15), with ESBL E.
   Coli of R hip, transferred to the MICU in the setting of progressive
   hypoxia.
   # Acute Hypoxemic Respiratory Failure: Etiology unclear and likely
   mixed picture. Differential includes infection, ARDS/[**Doctor Last Name 11**] given diffuse
   BL infiltrates, pulmonary edema. 02 saturation stable overnight.
   Minimal vent settings with pressure support 5, PEEP 5. Fi02 stable at
   50%. However, upon later exam this am pt with respiratory distress,
   dysynchronous from vent
   -          Continue current vent settings
   -          Increase sedation to improve comfort, decrease dysynchrony
   -          Obtain arterial line to follow ABGs
   -          Continue diuresis with lasix gtt to try to keep negative 1
   liter since has been positive 1 liter per day. Diuresis now enabled by
   improved alkalosis, on diamox
   -          F/U BAL results to determine if pneumonia present
   # Fluid/Acid base Status: In regards to volume status, pt has been
   roughly 1 liter positive each day, 1 liter pos yesterday despite lasix
   40 IV x2. Diuresis was limited by acid-base status. Peripheral edema
   improved but CXR continues to look volume overloaded vs. ARDS/[**Doctor Last Name 11**]. CXR
   confirms worsening bilateral opacities that may be indicative of
   worsening volume overload.
   -          Will start lasix gtt with goal negative 1 liter
   -          Continue Diamox for alkalosis to enable diuresis
   -
   # Melena: Likely [**1-7**] epistaxis. GI consulted and did not think bleed
   was necessarily GI given prior h/o epistaxis and stable HCT. She was
   transfused 2 units PRBC early am on [**9-18**] with Hct Stable x 24 hours.
   -          Serial monitoring of Hcts
   -          Liver Following
   -          Ruling out C diff, will send repeat sample
   # HAP?: Pt remains afbrile without leukocytosis although worsening CXR.
   Little reserve to treat empirically for infection although no focal
   consolidation.
   -          Cont Vanc/Meropenem
   -          d/c
d Cipro per I.D. Recs
   # Hip infection/pain: ESBL E coli
   - Meropenem Per I.D. Recs
   - F/U final MRI report
   - Ortho following. Planned for OR today in afternoon. Typed and
   crossed, will give FFP.
   - continue lidoderm patch, holding home oxycontin, oxycodone
   # Coagulopathy: INR 2.5 today. No further epistaxis. Platelets stable.
   Fibrinogen stable thus far. Receiving FFP for planned procedure, OR
   today.
   - f/u FDP, smear, fibrinogen has remained stable, FDP most recently low
   - Type and Screen
   - FFP needed for procedures
   # Cirrhosis from Hep C: MELD score this stay has been 15-20.  On
   transplant list, liver following.
   - Holding lactulose and rifaximin per Hepatology stating that it is
   currently not necessary
   - trend LFTs
   - F/U liver recs
   # Adrenal insufficiency: She has h/o adrenal insufficiency previously
   seen by Endocrinology [**4-13**] with undetectable cortisol levels, low ACTH.
   Since this is currently stressful situation given infection, diffuse
   pulmonary process, and planned OR will change hydrocortisone form 50
   q12 to q8 hours for 24 hours peri-procedure.
   - Change hydrocortisone 50mg IV from Q12H to q8 hour for now
   - monitor blood sugars for hyperglycemia on steroids with of insulin
   and sliding scale
   # Asthma:  Currently with wheezing on exam. On steroids as well as home
   meds.
   -          continue home albuterol, atrovent
   -           will increase albuterol to q4 standing, q2 prn, increase
   atrovent to q4 standing to decrease resp distress, bronchospasm
   # Diabetes:
   - continue insulin and sliding scale, follow FSBS while on steroids
   # GERD - continue PPI
   # Depression / Anxiety:
   - holding home PO meds
   - appreciate psych input
   # Osteopenia - continue home Vitamin D and Calcium carbonate
   # FEN - Will place OGT today so can receive TF and will consider
   providing platelets, will C/S nutrition for TF recs. Cont aggressive
   electrolyte repletion  and monitoring while on lasix
   -- Replete Mg and K prn
   -- Nutrition c/s for TFs,
   -- OG to be  placed.
   # Access
 PICC,  PIV  x 3.
   # PPx
 Hypercoaguabl, no heparin [**1-7**] thrombocytopenia, home PPI, bowel
   regimen
   # Code - FULL CODE (confirmed in family meeting w/ pt [**9-15**])
   # Dispo - MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-09-20 10:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Sedated.
   To OR last PM for surgical procedure of right hip.  Uneventful
   procedure.
   Lasix drip started.
 ARTERIAL LINE - START [**2158-9-19**] 03:15 PM
 OR SENT - At [**2158-9-19**] 06:20 PM
 MULTI LUMEN - START [**2158-9-20**] 01:06 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-9-17**] 11:46 PM
   Meropenem - [**2158-9-20**] 04:05 AM
   Vancomycin - [**2158-9-20**] 08:12 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-9-20**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 65 (62 - 106) bpm
   BP: 123/64(82) {107/52(0) - 143/78(100)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 8 (7 - 8)mmHg
   Total In:
                                                                  6,514 mL
                                                                  1,055 mL
   PO:
   TF:
   IVF:
                                                                  2,192 mL
                                                                  1,055 mL
   Blood products:
                                                                  4,322 mL
   Total out:
                                                                  2,990 mL
                                                                  2,330 mL
   Urine:
                                                                  2,240 mL
                                                                  2,030 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
   Balance:
                                                                  3,524 mL
                                                                 -1,275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.39/55/104/33/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   117 K/uL
   179 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.2 mEq/L
   25 mg/dL
   106 mEq/L
   147 mEq/L
   21.0 %
   11.5 K/uL
        [image002.jpg]
                            [**2158-9-18**]  10:32 PM
                            [**2158-9-19**]  05:08 AM
                            [**2158-9-19**]  08:17 AM
                            [**2158-9-19**]  11:40 AM
                            [**2158-9-19**]  05:07 PM
                            [**2158-9-19**]  09:16 PM
                            [**2158-9-19**]  09:17 PM
                            [**2158-9-20**]  01:53 AM
                            [**2158-9-20**]  02:21 AM
                            [**2158-9-20**]  08:27 AM
   WBC
   6.3
   6.0
   8.0
   9.1
   11.5
   Hct
   26.9
   29.2
   32
   28.8
   22.4
   22.3
   21.0
   Plt
   49
   37
   52
   46
   99
   117
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   35
   33
   35
   Glucose
   165
   171
   156
   199
   177
   199
   179
   Other labs: PT / PTT / INR:21.2/36.0/2.0, CK / CKMB / Troponin-T:128//,
   ALT / AST:20/37, Alk Phos / T Bili:87/8.0, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:3.3 g/dL, LDH:350
   IU/L, Ca++:9.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Respiratory failure.
   RESPIRATORY FAILURE -- persistent.  Unclear etiology, but may be
   multifactorial (asthma, diffuse pulmonary infiltrates).  Concern for
   pulmonary edema component.  Plan continue mechanical ventilation.
   Optimize asthma management, allow net diuresis.  F/U CXR.  Monitor ABG.
   EPISTAXIS -- stable.  Continue nasal packing.  Monitor serial Hct.
   Empirical antibiotics.  ENT to f/u.
   ASTHMA -- optimize management.
   NUTRITIONAL SUPPORT -- desire to initiate TF.  WOuld initiate TPN if
   not able to start TF.
   HYPKALEMIA -- total body depleted.  Replete to K>4.0.  Monitor.
   ANEMIA -- blood loss.  Transfuse to Hct >25
   FLUIDS -- desire net negative 1-1.5 L/24 hours with Lasix drip.
   MELANA -- suspect epistaxis, now clearing.  Monitor.
   ADRENAL INSUFFICIENCY -- continues with steroid supplimentation.
   DIABETES MELLITUS -- insulin drip to maintain glucose <150.
   Right HIP INFECTION -- s/p removal of right hip hardware.  Continue
   antimicrobials for ESBL e. coli.  Further interventions per Ortho
   service.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2158-09-21 05:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 1L I/O goal met.
   Continued Lasix drip
   K, Mg repleted
   D5W given for Hypernatremia
   Platelets transfused for <50 (31)
   OGT placed and TF started
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-20**] 08:02 PM
   Meropenem - [**2158-9-21**] 04:18 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-21**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 71 (57 - 78) bpm
   BP: 105/53(70) {98/53(70) - 135/69(90)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 16 (7 - 17)mmHg
   Total In:
                                                                  3,712 mL
                                                                    660 mL
   PO:
   TF:
                                                                     70 mL
                                                                     61 mL
   IVF:
                                                                  2,372 mL
                                                                    339 mL
   Blood products:
                                                                    750 mL
                                                                     10 mL
   Total out:
                                                                  4,955 mL
                                                                    570 mL
   Urine:
                                                                  4,505 mL
                                                                    500 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                    400 mL
                                                                     70 mL
   Balance:
                                                                 -1,243 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.44/55/90.[**Numeric Identifier 126**]/38/10
   Ve: 7.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General: Intubated, Sedated, awakens to noxious stimuli only, no
   awakening to voice, not following commands
   HEENT: PEERL, Sclera icteric, MMM
   Neck: Supple. JVP 7-8cm
   Resp: Improved exam with coarse BS bilaterally and occ. Scattered  exp
   wheezes throughout
   Card: S1S2 2/6 systolic ejection murmur
   Abd: Soft, Non-distended, no obvious tenderness, BS+
   Extr: 2+ Lower and Upper extremity edema (RLE>L); improved LEedema c/w
   prior . Multiple ecchymoses on UEs.
   R hip VAC in place. RLE hematoma stable
   Labs / Radiology
   31 K/uL
   8.8 g/dL
   124 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.8 mEq/L
   28 mg/dL
   108 mEq/L
   149 mEq/L
   24.6 %
   5.0 K/uL
        [image002.jpg] prior HCT 26.8 prior HCO3 37, 33, Prior Na 147
                            [**2158-9-19**]  09:17 PM
                            [**2158-9-20**]  01:53 AM
                            [**2158-9-20**]  02:21 AM
                            [**2158-9-20**]  08:27 AM
                            [**2158-9-20**]  01:13 PM
                            [**2158-9-20**]  01:28 PM
                            [**2158-9-20**]  05:25 PM
                            [**2158-9-20**]  11:13 PM
                            [**2158-9-21**]  03:03 AM
                            [**2158-9-21**]  03:18 AM
   WBC
   11.5
   5.0
   Hct
   22.3
   21.0
   26.3
   26.8
   24.6
   Plt
   117
   31
   Cr
   0.6
   0.5
   0.5
   TCO2
   33
   35
   40
   39
   Glucose
   177
   199
   179
   110
   137
   124
   Other labs: PT / PTT / INR:21.2/36.0/2.0, CK / CKMB / Troponin-T:128//,
   ALT / AST:20/37, Alk Phos / T Bili:87/8.0, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:350
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Micro data: Swab: wound cx no growth, 2+polys
   Wound hip OR: No growth, C diff neg x 1
   BAL no growth
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS [**2153**] (MELD 15), with ESBL E.
   Coli of R hip, transferred to the MICU in the setting of progressive
   hypoxia now P.O.D. #2 for R ex-plant
   # S/P Ex-Plant: POD#2 Tolerated procedure. Hip drainage stable
   -          Closely being followed by Ortho
   -          F/U cultures from procedure, all no growth. Prior hip cx
   ESBL E coli [**Last Name (un) 270**] to [**Last Name (un) 614**]
   -          Continue Meropenem and Vanc Per I.D. Recs, will need to
   discuss course now she has had drainage and removal of hardware
   -          Will check vanc trough in am, dose accordingly
   -          Monitor drainage from wound, stable.
   # Acute Hypoxemic Respiratory Failure: Etiology remains unclear and
   likely multifactorial including infection, [**Doctor Last Name 11**],  and pulmonary edema.
   Infection less likely given no growth from BAL. 02 saturation stable
   overnight. No changes to vent settings overnight. Lung exam improved
   but CXR shows persistent bilateral infiltrates.
   -          Cont current vent settings, will check SBT and RSBI today
   although have been unable to decrease FiO2 and PaO2 only 90 on 50%.
   Will check repeat ABG, try to decrease FiO2. Will likely need
   resolution of underlying lung process which by CXR is persistent
   -          Continue diuresis with lasix gtt  with goal of -500 to -1L
   per / day, will follow hourly I/O
   -          Cont Meropenem / Vanc
   -          F/U BAL finalized cultures
   # Fluid/Acid base Status: Pt positive during LOS. Are attempting to
   diurese to improve pulmonary edema. Lung exam improved this am after
   diuresis 1liter but CXR unchanged. Diuresis limited by acid-base status
   and alkalosis although may need to equilibrate. CVP elevated and has
   been positive so likely not dry. Alkalosis may be from diuresis even
   though not necessarily total body volume depleted. CXR continues to
   look volume overloaded vs. [**Doctor Last Name 11**].  Alkalosis worsened but off diamox.
   Will need to recheck bicarb in pm
   -          Lasix gtt with goal negative -.5-1L giving time to
   equilibrate while diuresing
   -          Aggressive electrolyte repletion with K sliding scale
   -          Recheck in pm
   # Anemia: No subsequent events of Melena or epistaxis, HCT this AM
   24.6, stable. Was 26.8.
   -          PM Hct and serial [**Hospital1 7**] monitoring of Hcts.
   -          Liver Following
   -          Hct goal of 25 although unclear if neccessary given h/o CAD.
   Will recheck in pm
   # Coagulopathy: INR 2.0 today, stable, has not required FFP since
   periop. Likely [**1-7**] liver disease +/- nutritional deficiency given no
   nutrition since transfer until yesterday. No further epistaxis.
   Platelets continue to be low. Was transfused this am, repeat plt 51.
   Will recheck since need to keep >50 and will have packing removed today
   by ENT.
   - Type and Screen
   - FFP as needed for procedures
   # Hep C cirrhosis: MELD score this stay has been 15-20.  Now
   deactivated from transplant list.
   - Restarted lactulose for bowel regimen now has OGT, no stool in approx
   2 days
   - trend LFTs
   - F/U liver recs
   # Adrenal insufficiency: Received stress dose steroids q8 periop for
   procedure.
   - Hydrocortisone 50mg IV now Q12H.
   - Change Insulin drip to Sliding scale once off stress dose steroids
   # Asthma: Wheezing, bronchospasm much improved with diuresis and
   albuterol/ipratropium.
   -          continue albuterol, atrovent nebs
   # Diabetes:  Continue Insulin Drip for now on hydrocortisone and would
   like good glycemic control for infection .
   - will consider change to ISS tomorrow
   # GERD - continue PPI
   # Depression / Anxiety:
   - holding home PO meds
   # Osteopenia - Stable
    - continue home Vitamin D and Calcium carbonate
   # FEN
 OG placed and TFs started. Cont aggressive electrolyte
   repletion  and monitoring while on lasix. Received D5W this am for
   hypernatremia
   -- Replete Mg and K prn
   -- Nutrition c/s for TFs
   -- Check PM lytes
   # Access
 PICC,  Right IJ
   # PPx
 Hypercoaguable, Home PPI, Bowel Regimen restarted since now has
   OGT
   # Code - FULL CODE
   # Dispo - MICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-9-20**] 03:02 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-09-21 11:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   OG tube placed for initation of TF.
   Tolerated net diuresis.
   Sedate, now tapering sedatives.
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-21**] 08:19 AM
   Meropenem - [**2158-9-21**] 09:50 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-9-21**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 66 (57 - 81) bpm
   BP: 126/64(85) {98/53(70) - 128/67(88)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 14 (7 - 17)mmHg
   Total In:
                                                                  3,712 mL
                                                                  2,368 mL
   PO:
   TF:
                                                                     70 mL
                                                                    180 mL
   IVF:
                                                                  2,372 mL
                                                                  1,360 mL
   Blood products:
                                                                    750 mL
                                                                    298 mL
   Total out:
                                                                  4,955 mL
                                                                  1,310 mL
   Urine:
                                                                  4,505 mL
                                                                  1,240 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                    400 mL
                                                                     70 mL
   Balance:
                                                                 -1,243 mL
                                                                  1,058 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.44/55/90.[**Numeric Identifier 126**]/38/10
   Ve: 7.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : few scattered, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice, Echymosis
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Purposeful, Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   8.8 g/dL
   52 K/uL
   124 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.2 mEq/L
   28 mg/dL
   108 mEq/L
   149 mEq/L
   24.6 %
   5.0 K/uL
        [image002.jpg]
                            [**2158-9-20**]  01:53 AM
                            [**2158-9-20**]  02:21 AM
                            [**2158-9-20**]  08:27 AM
                            [**2158-9-20**]  01:13 PM
                            [**2158-9-20**]  01:28 PM
                            [**2158-9-20**]  05:25 PM
                            [**2158-9-20**]  11:13 PM
                            [**2158-9-21**]  03:03 AM
                            [**2158-9-21**]  03:18 AM
                            [**2158-9-21**]  05:59 AM
   WBC
   11.5
   5.0
   Hct
   22.3
   21.0
   26.3
   26.8
   24.6
   Plt
   117
   31
   52
   Cr
   0.6
   0.5
   0.5
   TCO2
   35
   40
   39
   Glucose
   199
   179
   110
   137
   124
   Other labs: PT / PTT / INR:22.2/38.9/2.1, CK / CKMB / Troponin-T:128//,
   ALT / AST:20/37, Alk Phos / T Bili:87/8.0, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:350
   IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Respiratory failure
   RESPIRATORY FAILURE -- persistent, multifactorial.  Bronchospasm
   (asthma), pulmonary edema (ARDS vs. cardiogenic), alveolar hemorrhage,
   pneumonia.  Continue to optimize management.  Maintain
   CIRRHOSIS -- hep C.  Not on transplant list currently.
   ENCEPHALOPATHY -- hepatic --> resume lactulose.  Reduce sedatives, use
   minimal doses to desire effect.
   COAGULOPATHY -- attributed to liver disease.
   EPISTAXIS -- resolved.  No further active bleeding.  ENT to remove
   nasal packing.  Continue antibiotics
   NUTRITIONAL SUPPORT -- TF via NGT
   RIGHT HIP INFECTION -- ESBL E. coli --> s/p removal of hardware.
   Continue antimicrobials.
   LEG HEMATOMAS -- stable.  monitor.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-9-20**] 03:02 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2158-09-22 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -      Transfused two units of platelets prior to ENT removal of nasal
   packing, had a    little bleeding, which resolved.
   -          ENT: Afrin if epistaxis and hold pressure, call ENT if does
   not stop
   -          Respiratory status improved. On PSV, PS 8, PEEP 5, FiO2 50%.
   AbG as below
   -          Off lasix gtt
   -          Bolused lasix 40 IV x 1
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-21**] 08:14 PM
   Meropenem - [**2158-9-22**] 04:02 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-21**] 12:20 PM
   Furosemide (Lasix) - [**2158-9-21**] 11:15 PM
   Midazolam (Versed) - [**2158-9-22**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-22**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 83 (66 - 92) bpm
   BP: 137/67(93) {108/49(70) - 152/74(101)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 8 (7 - 23)mmHg
   Total In:
                                                                  4,705 mL
                                                                    598 mL
   PO:
   TF:
                                                                    575 mL
                                                                    225 mL
   IVF:
                                                                  2,236 mL
                                                                    153 mL
   Blood products:
                                                                    754 mL
   Total out:
                                                                  4,125 mL
                                                                    695 mL
   Urine:
                                                                  3,975 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
                                                                    150 mL
   Balance:
                                                                    580 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 549 (479 - 600) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 14 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.47/57/124/39/15
   Ve: 9.1 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General: Intubated, Sedated, opens eyes, awakens to voice, not
   following commands
   HEENT: PEERL, Sclera icteric, MMM
   Neck: Supple. JVP 7-8cm
   Resp: Improved exam with coarse BS bilaterally and occ. Scattered  exp
   wheezes throughout
   Card: S1S2 2/6 systolic ejection murmur
   Abd: Soft, distended, no obvious tenderness, hypoactive BS,
   Extr: [**1-8**]+ Lower and Upper extremity edema;  Multiple ecchymoses on
   UEs.  R hip VAC in place. RLE hematoma stable
   Labs / Radiology
   45 K/uL
   9.3 g/dL
   122 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.6 mEq/L
   29 mg/dL
   104 mEq/L
   147 mEq/L
   26.4 %
   7.6 K/uL
        [image002.jpg]
                            [**2158-9-21**]  03:18 AM
                            [**2158-9-21**]  05:59 AM
                            [**2158-9-21**]  01:09 PM
                            [**2158-9-21**]  01:47 PM
                            [**2158-9-21**]  01:51 PM
                            [**2158-9-21**]  05:11 PM
                            [**2158-9-21**]  11:10 PM
                            [**2158-9-21**]  11:29 PM
                            [**2158-9-22**]  03:42 AM
                            [**2158-9-22**]  04:25 AM
   WBC
   8.8
   7.6
   Hct
   25.3
   24.4
   26.5
   26.4
   Plt
   52
   35
   66
   60
   45
   Cr
   0.6
   0.6
   0.5
   TCO2
   39
   40
   41
   43
   Glucose
   [**Telephone/Fax (3) 2758**]
   Other labs: PT / PTT / INR:21.7/35.4/2.1, CK / CKMB / Troponin-T:128//,
   ALT / AST:24/42, Alk Phos / T Bili:95/4.6, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:357
   IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Introp wound cx no growth x2, C diff neg x 1, BAL no growth, Blood cx
   [**9-17**], [**9-18**] no growth
   Imaging: AP pelvis read pending
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS [**2153**] (MELD 15), with ESBL E.
   Coli of R hip, transferred to the MICU in the setting of progressive
   hypoxia now P.O.D. #3 for R ex-plant
   # S/P Ex-Plant: POD#3 Tolerated procedure. Hip drainage stable, VAC to
   be removed today by ortho
   -          Closely being followed by Ortho
   -          F/U cultures from procedure, all no growth. Prior hip cx
   ESBL E coli [**Last Name (un) 270**] to [**Last Name (un) 614**], on [**Last Name (un) **]
   -          Continue Meropenem and Vanc Per I.D. Recs, will need to
   discuss course now she has had drainage and removal of hardware
   -          Will check vanc trough this am, dose accordingly, goal 15-20
   -          Monitor drainage from wound, stable.
   # Acute Hypoxemic Respiratory Failure: Etiology remains unclear and
   likely multifactorial including infection, [**Doctor Last Name 11**], and pulmonary edema.
   Infection less likely given no growth from BAL. 02 saturation stable
   overnight, weaned vent settings now on pressure support, FiO2 50%.
   Clinical lung exam improved. ABG looks good, metabolic alkalosis with
   resp compensation. RSBI 49
   -          RSBI 49, doing well on pressure support on 50% FiO2
   -          Decrease FiO2 to 40%, check ABG, consider extubation
   -          Attempt to keep even to negative 500 cc with lasix IV
   -          Cont Meropenem / Vanc
   -          BAL finalized cultures neg so far
   -          Decrease sedation this am but will need adequate pain
   control, consider fentanyl patch if off gtt
   # Fluid/Acid base Status: Pt positive during LOS. Are attempting to
   diurese to improve pulmonary edema. Lung exam improved. Diuresis
   limited by acid-base status and alkalosis although may need time to
   equilibrate. CVP elevated and has been positive so likely not dry
   although unclear fluid status. Alkalosis may be from diuresis even
   though not necessarily total body volume depleted. Alkalosis worsened
   but off diamox.  Will need to recheck bicarb and lytes in pm
   -          Lasix IV bolus with goal even to negative -.5L giving time
   to equilibrate
   -          Aggressive electrolyte repletion with K sliding scale
   -          Fluids changed to D5W- Trying to decrease IVF intake
   -          Recheck in pm
   -          Check FE urea
   # Anemia: No subsequent events of Melena or epistaxis, HCT this AM
   26.4, stable.
   -          PM Hct and serial [**Hospital1 7**] monitoring of Hcts.
   -          Liver Following
   -          Hct goal of 25.
   # Coagulopathy: INR 2.1 today, stable, has not required FFP since
   periop. Likely [**1-7**] liver disease +/- nutritional deficiency given no
   nutrition since transfer until yesterday. No further epistaxis.
   Platelets continue to be low. Was transfused 2 bags yesterday, 45
   today, will transfuse to keep >50 per ENT recs.
   - Type and Screened
   - FFP as needed for procedures
   # Hep C cirrhosis: MELD score this stay has been 15-20.  Now
   deactivated from transplant list.
   - Restarted lactulose for bowel regimen now has OGT, no stool in approx
   3 days
   - trend LFTs
   - F/U liver recs
   # Adrenal insufficiency: Received stress dose steroids q8 periop for
   procedure.
   - Hydrocortisone 50mg IV now Q12H.
   - Changed Insulin drip to Sliding scale, will need to follow FSBS
   - Consider starting taper
   # Asthma: Wheezing, bronchospasm much improved with diuresis and
   albuterol/ipratropium.
   -          continue albuterol, atrovent nebs
   # Diabetes:  tried to change Insulin gtt to sliding scale last night
   but FSBS still elevated. Will need to restart glargine and tighter SS.
   Needs good glycemic control periop in setting of recovery from
   infection
   -          Will changed to fixed and ISS
   -
   # GERD - continue PPI
   # Depression / Anxiety:
   - holding home PO meds
   # Osteopenia - Stable
    - continue home Vitamin D and Calcium carbonate
   # FEN
 OG placed and TFs started. Cont aggressive electrolyte
   repletion and monitoring while on lasix. Received D5W this am for
   hypernatremia, getting meds mixed in D5W to avoid worsening alkalosis
   -- Replete Mg and K prn
   -- Check PM lytes
   # Access
 PICC,  Right IJ
   # PPx
 Hypercoaguable, Home PPI, Bowel Regimen restarted since now has
   OGT
   # Code - FULL CODE
   # Dispo - MICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-9-21**] 05:44 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-09-22 12:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   Lasix drip d/c'd --> now prn lasix.
   Nasal packing removed by ENT.
   Sedatives d/c'd this AM.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-21**] 08:14 PM
   Meropenem - [**2158-9-22**] 09:50 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-21**] 12:20 PM
   Furosemide (Lasix) - [**2158-9-21**] 11:15 PM
   Midazolam (Versed) - [**2158-9-22**] 05:05 AM
   Fentanyl - [**2158-9-22**] 09:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-9-22**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 78 (71 - 92) bpm
   BP: 139/68(95) {108/49(70) - 152/74(101)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 12 (7 - 23)mmHg
   Total In:
                                                                  4,705 mL
                                                                  1,284 mL
   PO:
   TF:
                                                                    574 mL
                                                                    482 mL
   IVF:
                                                                  2,236 mL
                                                                    295 mL
   Blood products:
                                                                    754 mL
                                                                    157 mL
   Total out:
                                                                  4,125 mL
                                                                    895 mL
   Urine:
                                                                  3,975 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
                                                                    150 mL
   Balance:
                                                                    580 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 425 (425 - 549) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.47/57/124/39/15
   Ve: 9.5 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   66 K/uL
   122 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.1 mEq/L
   29 mg/dL
   104 mEq/L
   146 mEq/L
   26.4 %
   7.6 K/uL
        [image002.jpg]
                            [**2158-9-21**]  05:59 AM
                            [**2158-9-21**]  01:09 PM
                            [**2158-9-21**]  01:47 PM
                            [**2158-9-21**]  01:51 PM
                            [**2158-9-21**]  05:11 PM
                            [**2158-9-21**]  11:10 PM
                            [**2158-9-21**]  11:29 PM
                            [**2158-9-22**]  03:42 AM
                            [**2158-9-22**]  04:25 AM
                            [**2158-9-22**]  08:21 AM
   WBC
   8.8
   7.6
   Hct
   25.3
   24.4
   26.5
   26.4
   Plt
   52
   35
   66
   60
   45
   66
   Cr
   0.6
   0.6
   0.5
   TCO2
   40
   41
   43
   Glucose
   [**Telephone/Fax (3) 2758**]
   Other labs: PT / PTT / INR:21.7/35.4/2.1, CK / CKMB / Troponin-T:128//,
   ALT / AST:24/42, Alk Phos / T Bili:95/4.6, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:357
   IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Respiratory failure, sepsis.
   RESPIRATORY FAILURE -- slow progress and improvement.  Better control
   of bronchospasm.  Hope to continue to net diurese.
   SOMNULANCE -- hepatic encephalopathy, sedation.  Plan d/c sedation, use
   prn narcotics for pain, continue lactulose.
   PAIN CONTROL -- iv bolus as needed.
   RIGHT HIP INFECTION -- s/p removal of hardware.  Continue
   antimicrobials.
   FLUIDs -- hope to continue net diuresis.
   EPISTAXIS -- resolved.  Monitor now that packing has been removed.
   NUTRITIONAL SUPPORT -- TF via NGT
   COAGULOPATHY -- stable
   ADRENAL INSUFFICIENCY -- hydrocortisone --> taper to baseline dose.
   Hypernatremia -- improved.  Continue free H2O via TF.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-9-22**] 08:18 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2158-09-25 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - S/p tranfusion of 2 units of plts, currently on 3rd.
   - K repleted x1
   - Tapering prednisone
   - 20 lasix and responded with > 400cc in first hour; ordered again.
   - Speech and Swallow consult pending
   - Following Nutrition recs re: tpn
   -(pRBC
s outdate tomorrow [**9-25**])
   - [**2149**]: Increased pain, tachycardia, hypertensive. Increased Fentanyl
   to 25-50mcg IV q4hr from 12.5-50mcg q2.
   - Back on home meds: effexor, rifixamin, MVIT, Ca2+.
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-24**] 09:08 AM
   Meropenem - [**2158-9-25**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-9-25**] 12:30 AM
   Fentanyl - [**2158-9-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-25**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 80 (78 - 111) bpm
   BP: 153/69(99) {127/63(89) - 177/104(131)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,620 mL
                                                                    500 mL
   PO:
             TF:
   IVF:
                                                                    800 mL
                                                                    271 mL
   Blood products:
                                                                    495 mL
   Total out:
                                                                  1,345 mL
                                                                    810 mL
   Urine:
                                                                  1,345 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: 7.50/48/82.[**Numeric Identifier 143**]/37/11
   PaO2 / FiO2: 207
   Physical Examination
   General: Extubated, facemask on, alert, follows commands.
   HEENT: PEERL, Sclera icteric, MMM
   Neck: Supple.
   Resp: Improving exam with mild inspiratory wheezing on left, otherwise
   clear
   Card: S1S2 2/6 systolic ejection murmur
   Abd: Soft, NTND, NABS, no HSM.
   Extr: 1+ LE edema; Multiple resolving ecchymoses on UEs.  R hip
   dressing CDI. RLE hematoma stable
   Neuro: A&Ox2 (not to date), MAE-yet minimal/no hip flexion on right;
   [**3-11**] plantar and dorsiflexion in bil LE, normal sensation in LEs.
   Labs / Radiology
   36 K/uL
   9.2 g/dL
   238 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.2 mEq/L
   29 mg/dL
   103 mEq/L
   145 mEq/L
   26.2 %
   6.9 K/uL
        [image002.jpg]
                            [**2158-9-23**]  12:52 PM
                            [**2158-9-23**]  02:09 PM
                            [**2158-9-23**]  03:20 PM
                            [**2158-9-24**]  12:20 AM
                            [**2158-9-24**]  02:45 AM
                            [**2158-9-24**]  08:06 AM
                            [**2158-9-24**]  03:51 PM
                            [**2158-9-24**]  08:04 PM
                            [**2158-9-24**]  08:45 PM
                            [**2158-9-25**]  03:31 AM
   WBC
   8.3
   7.0
   6.9
   Hct
   27.4
   26.6
   26.8
   26.2
   Plt
   58
   32
   53
   38
   57
   36
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   42
   43
   40
   39
   Glucose
   145
   126
   202
   238
   Other labs: PT / PTT / INR:20.2/35.0/1.9, CK / CKMB / Troponin-T:128//,
   ALT / AST:30/49, Alk Phos / T Bili:112/5.2, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:359
   IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS [**2153**] (MELD 15), with ESBL E.
   Coli of R hip, transferred to the MICU in the setting of progressive
   hypoxia now P.O.D. #5 for R ex-plant
   #S/P Ex-Plant: POD#5. + Hip drainage overnight following removal of
   VAC. Hip Cultures + for enterococcus, gram stain coag
 staph. Vanc
   Level 13.6 from 14 yesterday. Continues to have blood draining from
   wound, stable HCT, noted that patient
s INR is 2.2.
   -          Per ID, will change Vanc to q18hrs. Continue Meropenem. Recs
   for 6 weeks
   -          Closely being followed by Ortho; will d/w Ortho re PT/OT and
   re bleeding. Will follow HCTs in meantime.
   -          Cultures from procedure, all no growth. Prior hip cx ESBL E
   coli [**Last Name (un) 270**] to [**Last Name (un) 614**], on [**Last Name (un) **]
   -          Pain: continue fentanyl. Will start lidocaine patch (for
   back pain as well)
   # Acute Hypoxemic Respiratory Failure: Multifactorial including, [**1-7**]
   from epistaxis, [**Doctor Last Name 11**], and pulmonary edema. Infection less likely given
   no growth from BAL. Extubated O/N. Clinical lung exam improved. ABG
   looks good, metabolic alkalosis with resp compensation.  CXR pending
   for today. Currently on Fi02 40% mask.
   - Wean to NC as tolerated.
   - F/u CXR read; CXR in am [**9-25**].
   -          Attempt to keep even with lasix IV PRN, will tolerate
   alkalemia as long as pt continues to blow off CO2
   -          Cont Meropenem / Vanc
   -          BAL finalized cultures neg so far
   #Increased Bowel Movements: Pt having [**2-7**] BMs without receiving
   lactulose. Afebrile. No abdominal pain. Tried small amount of soft food
   today despite NPO status. Cdif neg x1
   -F/u c diff cultures
   -Hold lactulose/bowel regimen for now.
   #AMS: Pt is confused and disorient to date and place. Most likely cause
   includes hepatic encephalopathy, medication induced (eg: fentanyl),
   prolonged hospital stay.
   -Will continue to monitor mental status. No need for radiographic
   studies at head; will consider if mental status declines.
   # Fluid/Acid base Status: Pt remains close to 5L positive during LOS.
   Diuresed to improve pulmonary edema. Lung exam improved. Diuresis
   limited by acid-base status and alkalosis.
          -       I/O goal even with Lasix PRN
   -          Aggressive electrolyte repletion with KCl PRN
   -          Fluids changed to D5W- Trying to decrease IVF intake
   # Anemia: No subsequent events of Melena or epistaxis, HCT stable.
   -          Daily monitoring of Hcts.
   -          Liver Following
   -          Hct goal of 25.
   # Coagulopathy: INR 2.2 today, stable, has not required FFP since
   periop. Likely [**1-7**] liver disease +/- nutritional deficiency given no
   nutrition since transfer until yesterday. No further epistaxis.
   Platelets low this am, s/p 1unit plt this am.
   -recheck plt this am; will transfuse additional units if continues to
   <50 (goal >50).
   - Type and Screened
   - FFP if pt continues to bleed from R Hip wound
   # Hep C cirrhosis: MELD score today 12; this stay has been 15-20.  Now
   deactivated from transplant list.
   - Written for lactulose; will hold as patient continues to have
   increased BMs without lactulose.
   - trend LFTs
   - F/U liver recs
   # Adrenal insufficiency: Placed on hydrocortisone for stress dose
   steroids, VSS.
   - will taper Hydrocortisone 25mg to 12.5 IV now Q12H.
   # Asthma: Prior Wheezing, bronchospasm improved with diuresis and
   albuterol/ipratropium.
   - continue albuterol, atrovent nebs
   # Diabetes:  Insulin sliding scale with additional fixed dose; sugars
   are improved, however, anticipate rise in blood glucose with
   advancement of diet. Currently glargine at 40 units.
   -          Cont  fixed and ISS with decrease in Glargine to 20units.
   -          Follow FSBS closely with addition of TPN/diet.
   # GERD - continue PPI
   # Depression / Anxiety:
   - holding home PO meds
   # Osteopenia - Stable
    - continue home Vitamin D and Calcium carbonate
   # FEN
 OGT d/c
ed yesterday. Cont aggressive electrolyte repletion and
   monitoring while receiving lasix PRN. Getting meds mixed in D5W to
   avoid worsening alkalosis.
   -- Replete Mg and K prn
   -- Check PM lytes
   -- Will initiate standard TPN; will consult Nutrition for further TPN
   recs.
   # Access
 PICC,  Right IJ
   # PPx
 Hypercoaguable, Home PPI, bowel regimen.
   # Code - FULL CODE
   # Dispo - MICU
   [**First Name8 (NamePattern2) 453**] [**Last Name (NamePattern1) 2538**] MSIV
   ICU Care
   Nutrition:
   TPN without Lipids - [**2158-9-24**] 04:10 PM 41.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-09-25 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - S/p tranfusion of 2 units of plts, and another this AM
   - K repleted x1
   - Tapering prednisone
   - 20 lasix and responded with > 400cc in first hour.
   - Speech and Swallow consult pending
   - Following Nutrition recs re: tpn
   -(pRBC
s outdate tomorrow [**9-25**])
   - [**2149**]: Increased pain, tachycardia, hypertensive. Increased Fentanyl
   to 25-50mcg IV q4hr from 12.5-50mcg.
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-24**] 09:08 AM
   Meropenem - [**2158-9-25**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-9-25**] 12:30 AM
   Fentanyl - [**2158-9-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-25**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 85 (78 - 111) bpm
   BP: 159/69(101) {127/63(89) - 177/104(131)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,620 mL
                                                                    508 mL
   PO:
             TF:
   IVF:
                                                                    800 mL
                                                                    275 mL
   Blood products:
                                                                    495 mL
   Total out:
                                                                  1,345 mL
                                                                    810 mL
   Urine:
                                                                  1,345 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: 7.50/48/82.[**Numeric Identifier 143**]/37/11
   PaO2 / FiO2: 207
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   36 K/uL
   9.2 g/dL
   238 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.2 mEq/L
   29 mg/dL
   103 mEq/L
   145 mEq/L
   26.2 %
   6.9 K/uL
        [image002.jpg]
                            [**2158-9-23**]  12:52 PM
                            [**2158-9-23**]  02:09 PM
                            [**2158-9-23**]  03:20 PM
                            [**2158-9-24**]  12:20 AM
                            [**2158-9-24**]  02:45 AM
                            [**2158-9-24**]  08:06 AM
                            [**2158-9-24**]  03:51 PM
                            [**2158-9-24**]  08:04 PM
                            [**2158-9-24**]  08:45 PM
                            [**2158-9-25**]  03:31 AM
   WBC
   8.3
   7.0
   6.9
   Hct
   27.4
   26.6
   26.8
   26.2
   Plt
   58
   32
   53
   38
   57
   36
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   42
   43
   40
   39
   Glucose
   145
   126
   202
   238
   Other labs: PT / PTT / INR:20.2/35.0/1.9, CK / CKMB / Troponin-T:128//,
   ALT / AST:30/49, Alk Phos / T Bili:112/5.2, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:359
   IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   TPN without Lipids - [**2158-9-24**] 04:10 PM 41.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-09-25 11:26:00 Physician Attending Progress Note
Chief Complaint: Respriatory distress.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated, and remains extubated.
   States breathing is somewhat difficult today.
   Receiving plts transfusions to maintain plts >50k.
   TPN started.
   History obtained from Medical records
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2158-9-25**] 04:30 AM
   Vancomycin - [**2158-9-25**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-9-25**] 12:30 AM
   Fentanyl - [**2158-9-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-9-25**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 101 (80 - 112) bpm
   BP: 181/87(118) {127/63(89) - 184/104(131)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
           Total In:
                                                                  1,620 mL
                                                                  1,208 mL
   PO:
           TF:
   IVF:
                                                                    800 mL
                                                                    550 mL
   Blood products:
                                                                    495 mL
                                                                    201 mL
   Total out:
                                                                  1,345 mL
                                                                    940 mL
   Urine:
                                                                  1,345 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                    268 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: 7.50/48/82.[**Numeric Identifier 143**]/37/11
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): O x 3, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   61 K/uL
   238 mg/dL
   0.4 mg/dL
   37 mEq/L
   3.2 mEq/L
   29 mg/dL
   103 mEq/L
   145 mEq/L
   26.2 %
   6.9 K/uL
        [image002.jpg]
                            [**2158-9-23**]  02:09 PM
                            [**2158-9-23**]  03:20 PM
                            [**2158-9-24**]  12:20 AM
                            [**2158-9-24**]  02:45 AM
                            [**2158-9-24**]  08:06 AM
                            [**2158-9-24**]  03:51 PM
                            [**2158-9-24**]  08:04 PM
                            [**2158-9-24**]  08:45 PM
                            [**2158-9-25**]  03:31 AM
                            [**2158-9-25**]  07:41 AM
   WBC
   8.3
   7.0
   6.9
   Hct
   27.4
   26.6
   26.8
   26.2
   Plt
   58
   32
   53
   38
   57
   36
   61
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   40
   39
   Glucose
   145
   126
   202
   238
   Other labs: PT / PTT / INR:20.2/35.0/1.9, CK / CKMB / Troponin-T:128//,
   ALT / AST:30/49, Alk Phos / T Bili:112/5.2, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:359
   IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- improved s/p extubation.  Current complaints
   may be due to CHF or right pleural effusion, and pain (leg & hip).  No
   active bronchospasm.  Consider therapeutic thoracentesis (CXR reveals
   layering right effusion).
   ASTHMA -- good control on current regimen.  Continue usual medications.
   RIGHT HIP INFECTION -- s/p removal of hardware, local depot placement.
   No plan for repeat surgical interventions soon.  Continue antibiotics.
   ALTERED MENTAL STATUS -- improved since d/c sedatives, started
   lactulose.
   EPISTAXIS -- improved.  s/p nasal packing.
   COAGULOPATHY -- improved INR.  Monitor.
   NUTRITIONAL SUPPORT -- continue TPN.  Awaiting speech and swallow
   evalation.
   ADRENAL INSUFICIENCY -- continue usual chronic dose.
   PAIN CONTROL -- would optimize pain regimen.  Consider PCA pump,
   fentanyl patch, or adjusting PO regimen.
   CIRRHOSIS -- not listed currently, pending completion of infection
   therapy.
   FLUIDS
 desire net negative fluid balance.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2158-9-24**] 04:10 PM 41.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2158-09-26 05:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Captopril added, dose increased
   Adjusted sliding scale to start at administering at 150, increased
   glargine to 50
   Passed S/S
   Diuresed to Lasix 80 IV at 5pm, 200 cc per hr but still slightly
   positive
   2 ABGs which looked bad, apparently during desats, ? not on O2
   Rpt ABG with PaO2 66. Requested change ventilation delivery to mask
   since not getting adequate O2 on shovel mask
   Ativan DCd [**1-7**] somnolence
   Given 1 bag of platelets (for AM platelets of 31)
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-25**] 09:00 AM
   Meropenem - [**2158-9-26**] 05:08 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2158-9-25**] 12:10 PM
   Lorazepam (Ativan) - [**2158-9-25**] 12:45 PM
   Furosemide (Lasix) - [**2158-9-25**] 06:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-26**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.5
C (97.7
   HR: 88 (88 - 122) bpm
   BP: 156/75(104) {143/71(94) - 186/93(126)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,514 mL
                                                                    434 mL
   PO:
             TF:
   IVF:
                                                                  1,050 mL
                                                                    100 mL
   Blood products:
                                                                    201 mL
   Total out:
                                                                  2,865 mL
                                                                    160 mL
   Urine:
                                                                  2,865 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.46/57/136/38/14
   PaO2 / FiO2: 340
   Physical Examination
   General: Extubated, facemask on, A0x3, follows commands.
   HEENT: PEERL, Sclera mildly icteric, MMM
   Neck: Supple.
   Resp: Mildly improved insp effort, Scatted mild inspiratory wheezing,
   decreased BS on R
   Card: S1S2 2/6 systolic ejection murmur
   Abd: Soft, NTND, NABS, no HSM.
   Extr: 1+ LE edema; Multiple resolving ecchymoses on UEs.  R hip
   dressing CDI. RLE hematoma stable
   Neuro: AOx3, Motor Grossly intact.
   Labs / Radiology
   31 K/uL
   8.8 g/dL
   297 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.8 mEq/L
   29 mg/dL
   103 mEq/L
   145 mEq/L
   26.4 %
   9.3 K/uL
        [image002.jpg]
                            [**2158-9-24**]  08:45 PM
                            [**2158-9-25**]  03:31 AM
                            [**2158-9-25**]  07:41 AM
                            [**2158-9-25**]  01:20 PM
                            [**2158-9-25**]  02:41 PM
                            [**2158-9-25**]  03:54 PM
                            [**2158-9-25**]  06:22 PM
                            [**2158-9-25**]  07:05 PM
                            [**2158-9-26**]  02:39 AM
                            [**2158-9-26**]  03:01 AM
   WBC
   6.9
   9.3
   Hct
   26.2
   26.4
   Plt
   57
   36
   61
   48
   31
   Cr
   0.4
   0.4
   0.5
   TCO2
   42
   42
   42
   30
   42
   Glucose
   238
   171
   297
   Other labs: PT / PTT / INR:20.8/35.6/2.0, CK / CKMB / Troponin-T:128//,
   ALT / AST:30/49, Alk Phos / T Bili:112/5.2, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL, LDH:359
   IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS [**2153**] (MELD 15), with ESBL E.
   Coli of R hip, transferred to the MICU in the setting of progressive
   hypoxia now s/p R hip ex-plant
   # Acute Hypoxemic Respiratory Failure: Multifactorial (epistaxis, [**Doctor Last Name 11**],
   and pulmonary edema).  Stable  R pleural effusion, improved aeration on
   L. No growth from BAL. Clinical lung exam stable.  Serial ABGs.
   Currently on Fi02 40% mask. Did not achieve goal of -1L.
   -          I/O goal of -1L given worsening effusion on R (No known CHF
   hx)
   -          Cont Meropenem / Vanc
   -          BAL finalized cultures neg so far
   -          Evaluation by IP today for ? R thoracentesis (which would
   require FFP and platelets)
   #S/P Ex-Plant: POD#7. Decreased Hip drainage. Hip Cultures + for
   enterococcus, gram stain coag
 staph. Stable HCT, noted that patient
   INR is 2.0.
   -          Cont Vanc/Meropenem. Recs for 6 weeks
   -          Closely being followed by Ortho
   -          Stitches b\out in 3 weeks per Ortho
   # Pain: Better controlled on Oxycontin 20mg [**Hospital1 7**]. Written for but did
   not receive low-dose dilaudid PCA.
   -          Cont oxycontin and begin PO oxycodone for breakthrough
   #Hepatic Encephalopathuy: Mental status now clear.
   -  Cont Lacutlose, Rifaxamin as tolerated titrating to 3 soft BM per
   day
   # Anemia: No subsequent events of Melena or epistaxis, HCT stable.
   -          Daily monitoring of Hcts.
   -          Liver Following
   -          Hct goal of 25.
   # Coagulopathy: INR 2.0. Still requiring daily platelets. Not required
   FFP since periop. [**1-7**] liver disease +/- nutritional deficiency (since
   improved with Vit K).  Platelets low this am, s/p 1unit plt this am.
   - transfuse to platelet goal >50
   - Type and Screened
   - FFP if pt continues to bleed from R Hip wound
   # Adrenal insufficiency: Placed on hydrocortisone for stress dose
   steroids, VSS.
   - Start home Prednisone dose (5mg) today.
   # Asthma: Prior Wheezing, bronchospasm improved with diuresis and
   albuterol/ipratropium.
   - continue albuterol, atrovent nebs
   # Diabetes:  Insulin sliding scale with additional fixed dose. Now on
   TPN, will need adjustment on RISS. Currently glargine at 40 units.
   -          Cont  fixed and ISS, will adjust today in setting of TPN.
   # GERD - continue PPI
   # Depression / Anxiety:
   - restarting home anti-depressants (effexor)
   # Osteopenia - Stable
    - continue home Vitamin D and Calcium carbonate
   # FEN
 Cont aggressive electrolyte repletion and monitoring while
   receiving lasix PRN. Getting meds mixed in D5W to avoid worsening
   alkalosis. Pt now on TPN. Passed speech and swallow. Nutrition
   following.
   -- Nutrition Recs
   -- Replete Mg and K prn
   -- Check PM lytes
   # Access
 PICC,  Right IJ
   # PPx
 Pneumoboots, Home PPI, bowel regimen.
   # Code - FULL CODE
   # Dispo - MICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2158-9-25**] 05:00 PM 58.[**Telephone/Fax (5) 2887**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-09-27 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   I/O goal of -1L only got pt -400cc. Furosemide 80mg IV given 7am
   Pt seen by I.P. and planned for thoracentesis today
   Pt tearful c/o pain everywhere.
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-9-25**] 09:00 AM
   Meropenem - [**2158-9-26**] 06:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-9-26**] 10:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-27**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 89 (84 - 115) bpm
   BP: 110/56(77) {102/48(67) - 167/83(114)} mmHg
   RR: 13 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,067 mL
                                                                    616 mL
   PO:
                                                                    810 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    660 mL
                                                                     55 mL
   Blood products:
                                                                    197 mL
   Total out:
                                                                  3,480 mL
                                                                    380 mL
   Urine:
                                                                  3,480 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -413 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///39/
   Physical Examination
   General: Extubated, on nasal cannula oxygen, tearful, follows commands.
   HEENT: PEERL, Sclera mildly icteric, MMM
   Neck: Supple.
   Resp: More comfortable today, less tachypneic. Improved insp effort,
   Scatted mild expiratory wheezing, decreased BS on R base. No accessory
   muscle use, speaking in full sentences
   Card: S1S2 2/6 systolic ejection murmur
   Abd: Soft, NTND, NABS, no HSM.
   Extr: 1+ LE edema; Multiple resolving ecchymoses on UEs.  R hip
   dressing CDI. RLE hematoma stable
   Neuro: AOx3, Motor Grossly intact.
   Labs / Radiology
   40 K/uL
   8.4 g/dL
   123 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.0 mEq/L
   32 mg/dL
   104 mEq/L
   145 mEq/L
   24.8 %
   8.2 K/uL
        [image002.jpg]  HCO3 39 from 40
                            [**2158-9-25**]  02:41 PM
                            [**2158-9-25**]  03:54 PM
                            [**2158-9-25**]  06:22 PM
                            [**2158-9-25**]  07:05 PM
                            [**2158-9-26**]  02:39 AM
                            [**2158-9-26**]  03:01 AM
                            [**2158-9-26**]  10:09 AM
                            [**2158-9-26**]  12:54 PM
                            [**2158-9-26**]  08:20 PM
                            [**2158-9-27**]  03:09 AM
   WBC
   9.3
   8.2
   Hct
   26.4
   24.8
   Plt
   48
   31
   66
   40
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   42
   42
   30
   42
   Glucose
   171
   297
   210
   225
   123
   Other labs: PT / PTT / INR:18.9/34.2/1.8, CK / CKMB / Troponin-T:128//,
   ALT / AST:30/49, Alk Phos / T Bili:112/5.2, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL, LDH:359
   IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Micro: C diff neg
   Wound cx Coag neg staph, enterococcus [**Last Name (un) 270**] to vanc
   Assessment and Plan
   49yo woman with HCV cirrhosis s/p TIPS [**2153**] (MELD 15), with [**Year (4 digits) 1899**] E.
   Coli, enterococcus, coag neg staph of R hip, transferred to the MICU in
   the setting of progressive hypoxia now s/p R hip ex-plant
   # Acute Hypoxemic Respiratory Failure: Multifactorial ([**Doctor Last Name 11**] and
   pulmonary edema).  Respiratory exam and distress improving daily.
   Stable  R pleural effusion, improved aeration on L. No growth from BAL.
   Clinical lung exam improving now only on 2 liters O2, not using
   accessory muscles, speaking in full sentences.  Did not achieve goal of
   -1L although had good UOP to Lasix 80 IV. Continue Lasix prn to keep
   negative 1 liter per day
   -          Cont Meropenem / Vanc
   -          Planned R thoracentesis (which would require FFP and
   platelets). Will give 1 platelets, 2 units FFP  in afternoon prior to
   procedure
   #S/P Ex-Plant: POD#8. Hip Cultures + for enterococcus ([**Last Name (un) 270**] to vanc),
   coag
 staph. Prior hip cx positive for [**First Name9 (NamePattern2) 1899**] [**Last Name (un) 270**] to Meropenem. Per
   nursing, yellow and blood tinged copious drainage. Ortho following.
   Afebrile on Meropenem, Vanc
   -          Cont Vanc/Meropenem. Recs for 6 weeks after procedure
   -          F/U Ortho recs
   -          Stitches out in 3 weeks
   # Pain: Better controlled on Oxycontin 20mg [**Hospital1 7**] with Oxycodone for
   breakthrough. c/o pain but per nursing somnolent when returns to give
   pain medications and not receiving Oxycodone prn.
   -          Cont current regimen with oxycontin and PO oxycodone for
   breakthrough
   #Hepatic Encephalopathy/HCV Cirrhosis: Mental status now clear. Will
   follow LFTs as per liver recs
   -          Cont Lacutlose, Rifaxamin as tolerated titrating to 3 soft
   BM per day
   -          Follow mental status exam
   # Anemia: No subsequent events of melena or epistaxis, HCT stable 24.8
   from 26.
   -          Daily monitoring of Hcts.
   -          Liver Following
   -          Hct goal of 25.
   # Coagulopathy: INR 1.8. Still requiring daily platelets to keep >50.
   Not required FFP since periop. [**1-7**] liver disease +/- nutritional
   deficiency (since improved with Vit K).  Platelets transfused this am
   for procedure.
   - transfuse to platelet goal >50 for procedure
   - Type and Screened
   - 2 units FFP for procedure and 1 more bag of plt
   # Adrenal insufficiency: Completed stress dose steroids. Back on home
   regimen Prednisone 5mg daily.
   # Asthma: Prior Wheezing, bronchospasm improved with diuresis and
   albuterol/ipratropium.
   - continue albuterol, atrovent nebs, Advair
   # Diabetes:  Insulin sliding scale with additional fixed dose. Off TPN
   since tol PO diet. Will continue to follow FSBS, assess insulin scale
   given change in diet.
   -          Continue fixed and ISS, will adjust in setting of diet
   change, off TPN.
   # Hypertension: Started on Captopril 12.5 TID with better BP control
   # GERD - continue PPI
   # Depression / Anxiety: Restarted home anti-depressants (effexor)
   # Osteopenia - Stable
    - continue home Vitamin D and Calcium carbonate
   # FEN
 Cont aggressive electrolyte repletion and monitoring while
   receiving lasix PRN. Getting meds mixed in D5W to avoid worsening
   alkalosis. Will stop TPN since tolerating PO diet. Passed speech and
   swallow. Advanced to soft solids thin liquids.
   -- Will DC TPN since tolerating PO diet
   -- Replete Mg and K prn
   -- Check PM lytes since aggressively diuresing
   # Access
 PICC,  Right IJ, arterial line. Will DC RIJ after receives
   blood products. DC arterial line.
   # PPx
 Pneumoboots, Home PPI, bowel regimen.
   # Code - FULL CODE
   # Dispo - MICU today. Consider callout in pm
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2158-9-26**] 05:00 PM 58.[**Telephone/Fax (5) 2887**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-09-27 11:15:00 Physician Attending Progress Note
Chief Complaint: Resp. distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new events.
   Right hip pain control variable, but overall improved.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2158-9-26**] 06:00 PM
   Vancomycin - [**2158-9-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-9-26**] 10:23 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-11**] Moderate
   Pain location: Right hip
   Flowsheet Data as of  [**2158-9-27**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 102 (86 - 115) bpm
   BP: 100/49(69) {100/48(67) - 144/82(103)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
           Total In:
                                                                  3,067 mL
                                                                  1,682 mL
   PO:
                                                                    810 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    660 mL
                                                                    310 mL
   Blood products:
                                                                    197 mL
                                                                    251 mL
   Total out:
                                                                  3,480 mL
                                                                  1,510 mL
   Urine:
                                                                  3,480 mL
                                                                  1,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -413 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///39/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: right, No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   disarticulated right hip
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   40 K/uL
   123 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.0 mEq/L
   32 mg/dL
   104 mEq/L
   145 mEq/L
   24.8 %
   8.2 K/uL
        [image002.jpg]
                            [**2158-9-25**]  02:41 PM
                            [**2158-9-25**]  03:54 PM
                            [**2158-9-25**]  06:22 PM
                            [**2158-9-25**]  07:05 PM
                            [**2158-9-26**]  02:39 AM
                            [**2158-9-26**]  03:01 AM
                            [**2158-9-26**]  10:09 AM
                            [**2158-9-26**]  12:54 PM
                            [**2158-9-26**]  08:20 PM
                            [**2158-9-27**]  03:09 AM
   WBC
   9.3
   8.2
   Hct
   26.4
   24.8
   Plt
   48
   31
   66
   40
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   42
   42
   30
   42
   Glucose
   171
   297
   210
   225
   123
   Other labs: PT / PTT / INR:18.9/34.2/1.8, CK / CKMB / Troponin-T:128//,
   ALT / AST:30/49, Alk Phos / T Bili:112/5.2, Amylase / Lipase:25/21,
   Differential-Neuts:91.0 %, Lymph:5.6 %, Mono:3.3 %, Eos:0.0 %,
   Fibrinogen:107 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL, LDH:359
   IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- Improved.  CHF +/- ARDS.  Monitor.  Now on 2 L
   NP.  F/U CXR.
   RIGHT PLEURAL EFFUSION -- evaluate wth US to determine if
   thoracentiesis possible.
   RIGHT HIP INFECTION -- s/p removal of hip hardware.  Antibioitic spacer
   in place.  Continue antimicrobials.
   ENCEPHALOPATHY -- IMPROVED, resolution of infection, clearance of
   sedative.  Continue lactulose.
   CIRRHOSIS -- off transplant list currently during acute illness.
   FLUIDS -- Desire net negative fluid balance.  Monitor I/O.
   NUTRITION -- d/c TPN.  Continue PO.
   PAIN CONTROL -- oxycontin (& oxycodone for breakthrough)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2158-9-26**] 05:00 PM 58.[**Telephone/Fax (5) 2887**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-9-17**] 04:54 PM
   Arterial Line - [**2158-9-19**] 03:15 PM
   Multi Lumen - [**2158-9-20**] 01:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill